US08232296B2
6-Methyl-5-(1-methyl-1H-pyrazol-5-yl)-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2-dihydropyridine-3-carboxylic acid
Acetonitrile (30.3 L, 3 rel vol) was charged, followed by palladium(II) acetate (260 g, 0.05 mol eq) and 2-dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl (980 g, 0.1 mol eq). The mixture was stirred for 15 minutes. A solution of potassium carbonate (10.0 kg, 3.0 mol eq) in water (60.6 L, 6 rel vol) was added to the reaction. 1-Methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (31.8% w/w, 20.3 kg, 1.3 mol eq) as a solution in acetonitrile was added, followed by 5-iodo-6-methyl-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2-dihydropyridine-3-carboxylic acid (10.1 kg, 1 mol eq, limiting reagent). The reaction mixture was heated to reflux and stirred until the reaction was complete as judged by HPLC analysis. The reaction mixture was cooled and filtered. The cake was washed with acetonitrile (10.1 L, 1 rel vol) and the cake discarded. The filtrate was heated to 50° C. 6 M Hydrochloric acid (60.6 L, 6 rel vol) was added carefully to the reaction. The reaction mixture was stirred at 50° C. for 60 minutes, cooled to 5° C. and stirred overnight. The solid was collected by filtration, washed twice with water (2×20.2 L, 2×2 rel vol) and with cold (around 5° C.) acetonitrile (10.1 L, 1 rel vol). The solid was dried to constant weight to yield the title compound (8.1 kg, 21.5 mol, 77%); 1H NMR (d6-DMSO): δ 1.87 (s, 3H); 3.73 (s, 3H); 6.35-6.37 (m, 1H); 7.54-7.55 (m, 1H); 7.83-7.91 (m, 2H); 7.95-7.97 (m, 1H); 8.07 (s, 1H); 8.25 (s, 1H); 13.80 (s, 1H); LCMS: m/z 378.3 (MH+).

reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl | 0.1 mol, 980 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | potassium carbonate | 3.0 mol, 10.0 kg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-Methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.3 mol, 20.3 kg | CN1N=CC=C1B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | 5-iodo-6-methyl-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2-dihydropyridine-3-carboxylic acid | IC=1C=C(C(N(C1C)C1=CC(=CC=C1)C(F)(F)F)=O)C(=O)O | C14H9F3INO3
solvent | water | 60.6 L | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | palladium(II) acetate | 0.05 mol, 260 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Acetonitrile | 30.3 L | C(C)#N | C2H3N
product | 6-Methyl-5-(1-methyl-1H-pyrazol-5-yl)-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2-dihydropyridine-3-carboxylic acid | 21.5 mol, 8.1 kg, 77% | CC1=C(C=C(C(N1C1=CC(=CC=C1)C(F)(F)F)=O)C(=O)O)C1=CC=NN1C | C18H14F3N3O3
